US04628057
(3R)-2-[(Benzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
To a mixture of (3R)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (5.4 g), 2N NaOH (25 ml) and 50% ethanol (70 ml) is added dropwise carbon disulfide (1.5 ml) at room temperature. The mixture is stirred at room temperature for 30 minutes, and thereto is added dropwise benzyl bromide (3.5 ml), and the mixture is further stirred at the same temperature for 3 hours and then distilled to remover the solvent. To the residue is added water, and the mixture is extracted with ether. The aqueous layer is acidified with 10% HCl, extracted with ethyl acetate. The extract is washed with water, dried and distilled to remove the solvent. The residue is purified by silica gel column chromatography (solvent, chloroform:methanol=20:1) to give the title compound (4.5 g) as pale yellow powder.

reactant | (3R)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 5.4 g | C1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 2N, 25 ml | [OH-].[Na+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | benzyl bromide | 3.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | carbon disulfide | 1.5 ml | C(=S)=S | CS2
product | (3R)-2-[(Benzylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.5 g | C(C1=CC=CC=C1)SC(=S)N1CC=2NC3=CC=CC=C3C2C[C@@H]1C(=O)O | C20H18N2O2S2
